US07576099B2
(E)-4-(3,3-dimethylbut-1-enyl)-2-methylbenzoic acid methyl ester
A mixture of methyl 4-bromo-2-methylbenzoate (10.0 g, 0.0436 mol), tri-o-tolylphosphine (1.31 g, 0.00429 mol), cesium carbonate (6.99 g, 0.0214 mol), tetra-N-butylammonium chloride (1.79 g, 0.00644 mol), 1-butene, 3,3-dimethyl-(20 g, 0.2 mol), palladium acetate (0.24 g, 0.0011 mol) was sealed in a glass vessel and stirred at 150° C. for 96 h. After cooling, the reaction mixture was filtered through Celite® and the filtrate was partitioned bewteen EtOAc and water. The organic layer was separated and washed with brine, dried (Na2SO4) and concentrated. The residue was chromatographed with hexane-EtOAc to give the title compound as a white solid.

reactant | methyl 4-bromo-2-methylbenzoate | 0.0436 mol, 10.0 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | tri-o-tolylphosphine | 0.00429 mol, 1.31 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | cesium carbonate | 0.0214 mol, 6.99 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-butene | C=CCC | C4H8
catalyst | tetra-N-butylammonium chloride | 0.00644 mol, 1.79 g | CCCC[N+](CCCC)(CCCC)CCCC.[Cl-]
catalyst | palladium acetate | 0.0011 mol, 0.24 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-4-(3,3-dimethylbut-1-enyl)-2-methylbenzoic acid methyl ester | COC(C1=C(C=C(C=C1)\C=C\C(C)(C)C)C)=O | C15H20O2
